US04668682
268 mg (1 mmol) of 2-(2-methoxyphenylmethyl)-4H-3,1-benzoxazine-4-one and 238 mg (1 mmol) of 2-[[N-[2-(3,4-dimethoxyphenyl)ethyl]-N-methylamino]]ethyl-amine were heated in xylene (10 ml) under reflux for 10 hours . After the xylene was distilled off, the residue obtained was purified by silica gel column chromatography (eluent; 2% ethanol/chloroform) to obtain 107 mg (52%) of 2-(2-methoxyphenylmethyl)-3-[2-{N-(3,4-dimethoxyphenylethyl)-N-methylamino}ethyl]-4(3H)-quinazolinone as an oily substance. Subsequently, the thus obtained quinazolinone was dissolved in ethanol (2 ml) and to the resulting soluion there was added a 7% hydrogen chloride-ethanol solution (1 ml). Further, ether was added to the reaction mixture thus obtained, and the precipitated colorless crystals were collected by filtration to obtain 99 mg of the hydrochloride which is the desired compound.

reactant | 2-(2-methoxyphenylmethyl)-4H-3,1-benzoxazine-4-one | 1 mmol, 268 mg | COC1=C(C=CC=C1)CC1=NC2=C(C(O1)=O)C=CC=C2 | C16H13NO3
reactant | 2-[[N-[2-(3,4-dimethoxyphenyl)ethyl]-N-methylamino]]ethyl-amine | 1 mmol, 238 mg | COC=1C=C(C=CC1OC)CCN(C)CCN | C13H22N2O2
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-methoxyphenylmethyl)-3-[2-{N-(3,4-dimethoxyphenylethyl)-N-methylamino}ethyl]-4(3H)-quinazolinone | 107 mg, 52% | COC1=C(C=CC=C1)CC1=NC2=CC=CC=C2C(N1CCN(C)CCC1=CC(=C(C=C1)OC)OC)=O | C29H33N3O4
